US05464859
Stage A: 2-Benzylamino-5,8-dimethoxy-3,4-dihydronaphthalene
A mixture containing 82 mmol of 5,8-dimethoxy-3,4-dihydronaphthalen-2(1H)-one, 82 mmol of benzylamine and 0.20 g of p-toluenesulfonic acid is brought to reflux with azeotropic distillation of the water/toluene mixture. After heating for 2 hours, the mixture is cooled, filtered and the solvent evaporated under vacuum and leads to the expected product in the form of an oil.

reactant | 5,8-dimethoxy-3,4-dihydronaphthalen-2(1H)-one | 82 mmol | COC1=C2CCC(CC2=C(C=C1)OC)=O | C12H14O3
reactant | benzylamine | 82 mmol | C(C1=CC=CC=C1)N | C7H9N
reactant | p-toluenesulfonic acid | 0.20 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water toluene | O.C1(=CC=CC=C1)C
product | 2-Benzylamino-5,8-dimethoxy-3,4-dihydronaphthalene | C(C1=CC=CC=C1)NC1=CC2=C(C=CC(=C2CC1)OC)OC | C19H21NO2
